Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with history of HIV on 
HAART (Genvoya), self-reported last CD4 greater than 600, who 
presents now with 3 days of nausea, vomiting and diarrhea. He 
has experienced associated cramping and bloating with no 
tenesmus or dyschezia. His N/V/D began upon waking on ___ 
morning which at the time he attributed to a bad tuna sandwich 
he had eaten the night prior. N/V have since stopped with 
diarrhea persisting. The diarrhea is described as profuse, 
watery/ "pureed" consistency without any blood or mucus. Patient 
denies any recent travel. He does have a sick contact, his HIV + 
roommate had similar sx and diarrhea the week prior; the patient 
removed his roommate's soiled undergarments from the trash and 
feels as though he was exposed. His roommate was treated for a 
"parasite infection" with flagyl and has since improved. Mr. 
___ denies any recent antibiotic use within the past 2 
months or any recent hospitalizations. Patient denies any 
abdominal pain or chest pain or shortness of breath.  
 In the ED he was tachycardic to 130s with a tmax 100.6. He was 
found to have an elevated lactate, mild hypokalemia, 
transaminitis, and an ___. He received 3 L NS and PO potassium 
and was started on ciprofloxacin and metronidazole.  
 In the ED, initial vitals:  
 99.8 |HR 134 |104/73 | 18| 97% RA  
 - Exam notable for:  
 - Labs notable for:  
 Na:133  
 K:3.2  
 Cl:108  
 TCO2:15  
 Lactate:1.7 (down from 3.9)  
 BUN: 34  
 Cr: 1.4  
 Ca: 8.5  
 Mg: 1.9  
 P: 5.3  
 AST: 97  
 ALT: 52  
 WBC: 14.3  
 Hgb: 17.9  
 HCt: 52.8  
 Plt: 159  
 Stool cx, stool O & P, stool campylobacter- pending  
 - Imaging notable for:  
 EKG performed in ED shows sinus tachycardia 
 
Past Medical History:
HIV, HSV ___
 
Social History:
___
Family History:
Hx of prostate cancer, heart disease in father
 
Physical ___:
EXAM ON ADMISSION:
==================

Vital Signs: 97.6 |PO 105 / 71| 84| 18| 96% RA  
 General: Sallow-appearing, alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, eyes sunken, mucus membranes dry, 
oropharynx without exudate or erythema, EOMI, PERRLA 
constricting from 3.5 to 3 mm b/l, neck supple without LAD  
 CV: Tachycardic, normal S1 + S2, no murmurs, rubs, or gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding.  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: Alert and oriented x3. No gross focal deficits.  
 
EXAM ON DISCHARGE:
==================

Vital Signs: 97.8 PO 121 / 80 L Lying 72 16 97 Ra 
 General: Alert, oriented, no acute distress. Sitting 
comfortably in bedside chair 
 HEENT: Sclerae anicteric, mucus membranes moist, oropharynx 
without exudate or erythema, EOMI, PERRLA constricting from 3.5 
to 3 mm b/l, neck supple without LAD  
 CV: RRR, normal S1 + S2, no murmurs, rubs, or gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Alert and oriented x3. No gross focal deficits.  
 
 
Pertinent Results:
ADMISSION LABS:
==============

___ 08:16AM BLOOD WBC-14.3* RBC-5.76 Hgb-17.9* Hct-52.8* 
MCV-92 MCH-31.1 MCHC-33.9 RDW-13.4 RDWSD-45.3 Plt ___
___ 08:16AM BLOOD Neuts-54 Bands-24* Lymphs-16* Monos-6 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-11.15* 
AbsLymp-2.29 AbsMono-0.86* AbsEos-0.00* AbsBaso-0.00*
___ 08:16AM BLOOD Plt Smr-NORMAL Plt ___
___ 07:14PM BLOOD  WBC-10.3* Lymph-14* Abs ___ CD3%-45 
Abs CD3-651 CD4%-23 Abs CD4-327* CD8%-22 Abs CD8-321 
CD4/CD8-1.02
___ 08:16AM BLOOD Glucose-139* UreaN-38* Creat-2.2* Na-128* 
K-8.4* Cl-105 HCO3-13* AnGap-18
___ 08:16AM BLOOD ALT-52* AST-97* AlkPhos-67 TotBili-0.8
___ 08:16AM BLOOD Albumin-4.4 Calcium-8.5 Phos-5.3* Mg-1.9
___ 12:56PM BLOOD Lactate-1.7 Na-133 K-3.2* Cl-108 
calHCO3-15*

IMAGING:
========

None

DISCHARGE LABS:
==============

___ 06:50AM BLOOD WBC-4.7 RBC-4.74 Hgb-14.7 Hct-42.7 MCV-90 
MCH-31.0 MCHC-34.4 RDW-13.1 RDWSD-43.4 Plt ___
___ 06:50AM BLOOD Plt ___
___ 04:59PM BLOOD Glucose-110* UreaN-13 Creat-0.9 Na-138 
K-3.4 Cl-107 HCO3-20* AnGap-14
___ 04:59PM BLOOD Calcium-8.1* Phos-2.1* Mg-2.0
 
Brief Hospital Course:
The patient is a ___ year old man with hx of HIV on HAART, HTN, 
HSV on acyclovir prn, who presented with 3 days of resolved n/v 
and persistent watery, large volume diarrhea found on 
presentation to be mildly febrile, tachycardic with elevated WBC 
and found to have ___, likely due to pre-renal azotemia. The pt 
was originally treated empirically with IV ciprofloxacin and 
metronidazole. We discovered that he had had a contact with his 
roommates stool who was recently infected with E. Histolytica. 
As such, we narrowed antibiotics to Metronidazole for a total of 
a 10 day course. He was also give 3L NS in the ED given his 
severe dehydration. Following fluid administration, his 
tachycardia resolved, as did his ___. He was maintained on 
maintenance fluids throughout his stay until he could tolerate 
PO intake again. When his diarrhea had resolved, he was 
discharged home. The problems addressed during this 
hospitalization were as follows.

# Diarrhea, HIV +: The patient's self reported CD4 count is 
800-900. The diarrhea is described as large-volume, watery in 
nature of 3 day duration. The patient never had fevers. The 
patient was begun on empiric coverage, treating with IV 
ciprofloxacin and metronidazole (___), which was 
narrowed to Metronidazole PO ___ upon discovery of his 
roommate's recent E. Histolytic infection. Diarrhea resolved 
with treatment, and the patient was discharged with a ten day 
course of Metronidazole 500mg PO TID.
- Stool cx, stool O&P, stool campylobacter all negative
- Stool C Diff Negative
- Discharge on Metronidazole 500mg PO TID

# Dehydration:
# Tachycardia: Patient presented with severe dehydration due to 
profuse watery diarrhea. The patient was administered 3L NS 
boluses in the ED, and his tachycardia resolved. He was kept on 
maintenance fluids throughout the remainder of his stay until he 
was tolerating PO well.

# ___: The patient presented with a Cr 1.4 initially, which 
quickly dropped to 1.0 on ___ following 3L NS in the ED. Likely 
pre-renal due to poor perfusion in setting of hypovolemia ___ to 
N/V/D. Renal function continued to improve throughout his stay 
with good PO intake.

# Hypokalemia: Likely secondary to GI losses. His electrolytes 
were all closely monitored, and were repleted when necessary.

# Transaminitis: AST: 97 ALT: 52 initially, trending down after 
volume repletion. Likely secondary to severe dehydration. His 
liver enzymes were tracked throughout his stay, and they 
continued to trend down each day.

# HIV: Patient acquired HIV from a sexual partner in ___. His 
HIV has been stable with CD4 count 800-900 on HAART. He is 
followed by Dr. ___. He was continued on his home 
antiretroviral regimen while he was in the hospital, Genvoya 1 
tab PO daily. Pt's CD4 count in hospital was 327, and he is 
scheduled for close follow up wit his HIV primary doctor.

# HTN: Losartan was held during admission given ___. Patient 
remained normotensive.

TRANSITIONAL ISSUES:
- F/u with HIV specialist regarding recent infection and CD4 
count of 327, down from 800-900
- Please get a BMP at first follow up to assess for persistent 
hypokalemia
- Losartan held during admission and on discharge given 
normotension. Consider restarting as outpatient f
- Attend all follow up appointments as scheduled
- Please take Metronidazole 500mg PO TID for possible E. 
Histolytica infection for 10 days, through ___
- If E. histolytica antigen positive, patient should also be 
treated with luminal agent such as paromomycin. Inpatient team 
will follow-up E. histolytica results.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Genvoya (elviteg-cobi-emtric-tenofo ala) ___ mg 
oral DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Acyclovir 400 mg PO QAM:PRN for break outs  

 
Discharge Medications:
1.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth Three times a day 
Disp #*21 Tablet Refills:*0 
2.  Acyclovir 400 mg PO QAM:PRN for break outs   
3.  Genvoya (elviteg-cobi-emtric-tenofo ala) ___ mg 
oral DAILY  
4.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were having severe 
diarrhea. While you were here, we treated this with antibiotics, 
and your diarrhea improved. You were also very dehydrated when 
you arrived, and we treated this by giving you fluid directly 
through an intravenous line. After you had recovered, we 
discharged you home with an oral version of the antibiotics to 
take for 7 more days. Please attend all of your follow up 
appointments, and take all of your medications as prescribed.

While you were here:
- We treated your diarrhea with antibiotics
- We gave you fluid for your dehydration
- When you had recovered, we sent you home with oral antibiotics 
to take for 7 more days.

After you leave:
- Please attend all follow up appointments scheduled for you
- Please take all of your medications as prescribed 

It was a pleasure to care for you during you hospital stay! 

Your ___ Medicine team
 
Followup Instructions:
___